US07351719B2
Z19b) N-(2-diethylamino-ethyl)-benzene-1,4-diamine
1.20 mg (4.416 mmol) of N′-(2-chloro-4-nitro-phenyl)-N,N-diethyl-ethane-1,2-diamine was added to a suspension of 200 mg Raney-Ni in 20 mL MeOH and the mixture was hydrogenated for 2 hours at RT under 20 psi H2 atmosphere. The catalyst was filtered off and the filtrate evaporated down i. vac.

reactant | N′-(2-chloro-4-nitro-phenyl)-N,N-diethyl-ethane-1,2-diamine | 4.416 mmol, 1.20 mg | ClC1=C(C=CC(=C1)[N+](=O)[O-])NCCN(CC)CC | C12H18ClN3O2
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | N-(2-diethylamino-ethyl)-benzene-1,4-diamine | C(C)N(CCNC1=CC=C(C=C1)N)CC | C12H21N3
